US05643958
(3) Preparation of (1RS,2RS,4E)-2-(4-chlorophenyl)-1-methyl-5-(2-naphthyl)-4-pentenylamine
4.06 g of (2RS,3SR,5E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-ol was dissolved in 30 ml of tetrahydrofuran, and 4.77 g of triphenylphosphine, 2.89 ml of diethyl azodicarboxylate and 4.77 g of diphenylphosphoryl azide were added under cooling with ice with stirring, followed by stirring at room temperature for 30 minutes. The reaction solution was evaporated to dryness under reduced pressure. Then, the residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/1→30/1). The obtained azide product was heated and refluxed together with 3.2 g of triphenylphosphine in 100 ml of 10% water-containing tetrahydrofuran. The reaction solution was evaporated to dryness under reduced pressure. Then, the residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1→20/1) to obtain 2.30 g of the above-identified compound.

reactant | (2RS,3SR,5E)-3-(4-chlorophenyl)-6-(2-naphthyl)-5-hexen-2-ol | 4.06 g | ClC1=CC=C(C=C1)C(C(C)O)C\C=C\C1=CC2=CC=CC=C2C=C1 | C22H21ClO
reactant | triphenylphosphine | 4.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.89 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 4.77 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (1RS,2RS,4E)-2-(4-chlorophenyl)-1-methyl-5-(2-naphthyl)-4-pentenylamine | 2.30 g | ClC1=CC=C(C=C1)C(C(C)N)C\C=C\C1=CC2=CC=CC=C2C=C1 | C22H22ClN
